US04329365
To a refluxing (250 watt infra-red lamp) and stirred solution of 4-(4-nitrophenoxy)toluene (229.25 g; 1 mol) in CCl4 (2.5 l) under nitrogen, bromine (247.46 g; 1.55 mol) in CCl4 (250 ml) was added dropwise over a period of 4 hours. After refluxing an additional 8 hours, followed by stirring at room temperature overnight, the reaction mixture was washed with 10% sodium bisulphite (1×1 l), saturated sodium bicarbonate (2×2 l) and saturated sodium chloride. The organic layer was dried over magnesium sulphate and evaporated to give a yellow solid which was recrystallised from benzene-hexane (250 ml:350 ml) to yield 4-(4-nitrophenoxy)α-bromotoluene as light yellow crystals. m.p. 68°-70° C. NMR (CDCl3): 8.15 (d,2H), 7.45 (d,2H), 7.0 (d,4H); and 4.49 (s,2H). Analysis: calculated for C13H10BrNO3 : C, 50.67; H, 3.27; N, 4.55; Br, 25.93; found: C, 50.38; H, 3.24; N, 4.58; Br, 26.02.

reactant | 4-(4-nitrophenoxy)toluene | 1 mol, 229.25 g | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)C)C=C1 | C13H11NO3
reactant | bromine | 1.55 mol, 247.46 g | BrBr | Br2
solvent | CCl4 | 2.5 l | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(4-nitrophenoxy)α-bromotoluene | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)CBr)C=C1 | C13H10BrNO3
